reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([c:2]1[c:3]([H:11])[c:4]([C:5]([H:12])([H:13])[H:14])[c:6]([H:15])[n:7]1[H:16])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:12])[C-:3]([H:11])[C:4](=[C:5]([H:13])[H:14])[C+:6]([H:15])[N:7]1[H:16])([H:8])([H:9])[H:10],124.12932186565399
[C:3]([O:4][H:12])([H:9])([H:10])[H:11].[N:1]([C+:2]=[C:5]=[N-:6])([H:7])[H:8]>>[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8],28.796401716374
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N+:1]([C:2]([O-:3])=[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])[H:10])([H:8])([H:9])[H:11],79.7371175343942
[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([O+:6]=[C-:5][H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],122.31912722145901
[C:1]([C@@:2]1([H:11])[O:3][C@:6]([O:7][H:12])([H:16])[N:5]([H:15])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],32.1559481725501
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6][O:7][H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],78.8531188263025
[C:1](=[C:2]=[C:3]=[C:4]([O:5][H:9])[C:6]#[C:7][H:11])([H:8])[H:10]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10],42.648743203681896
[C:1]([C:2]([N:3]([C:4](=[N:5][H:14])[N+:7]#[C-:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],33.0497726631634
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C-:4]=[O+:5][C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],105.716893651279
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2][C:7]([C@:4]1([C:3]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[O:6]1)([H:16])[H:17])([H:8])([H:9])[H:10],79.50936971636409
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@:2]([C:3]([H:12])([H:13])[H:14])([H:11])[C:4]/[C:5]1=[C:6](/[O:7][H:10])[H:15],93.582519665213
[C:1]([O:2][C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9]>>[C-:1]([O+:2]=[C:3]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:8])[H:9].[C:4]([H:7])([H:10])([H:11])[H:12],87.6247828899646
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1](=[C:2](/[C:3](=[C:4]([C:6](=[N:5]/[H:12])\[H:13])/[H:11])[H:10])[H:9])([H:7])[H:8],57.6538922861268
[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6][O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],80.6218913577295
[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]1([H:6])([H:8])[C@:2]([N:3]([H:10])[H:11])([H:9])/[C:4]1=[N:5]/[H:7],108.59721742483299
[C:1](=[C:2]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:8])[H:9].[O:3]([H:7])[H:11]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],52.43086481113639
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])=[C:6]=[N:7][C:5]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],103.12311257243
[C:1]([C:2]([C+:3]=[C:5]=[N-:6])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([H:12])([H:13])([H:14])[H:15]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],4.9690327478216005
[O:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1=[C:6]([H:7])[H:14],53.635356917321
[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[C@@:5]([C:4]([H:13])([H:14])[H:15])([H:16])[O:6]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[H:16])([H:7])([H:8])[H:9],57.80526405251201
[C:1]([C:2]([C:3]([N:6]=[C:5]=[C:4]([H:14])[H:15])([H:11])[H:13])([H:10])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],71.1409219031093
[C-:5]#[O+:6].[C:1]([O+:2]=[C-:3][O:4][H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5](=[O:6])[H:10])([H:7])([H:8])[H:9],20.3154170738855
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[O:7])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[C:6]([H:18])([H:19])([H:20])[H:21]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],77.05282731017103
